US08603975B2
To a solution of tert-butyl [(2R)-2-methoxypropyl]carbamate (2.72 g) in DMF (41 ml) was added NaH (862 mg; 60% oil suspension) under nitrogen atmosphere, and the mixture was stirred at room temperature for 30 minutes. MeI (1.79 ml) was added to the mixture, and the whole was stirred for 3 hours at the same temperature. Water was added, and the whole was extracted with EtOAc and the extract was washed with water and brine and dried over MgSO4. Concentration under reduced pressure gave a residual oil, which was purified with silica gel column eluting with EtOAc:n-hexane=1:5 to give tert-butyl [(2R)-2-methoxypropyl]methylcarbamate (1.94 g).

reactant | tert-butyl [(2R)-2-methoxypropyl]carbamate | 2.72 g | CO[C@@H](CNC(OC(C)(C)C)=O)C | C9H19NO3
reactant | NaH | 862 mg | [H-].[Na+]
reactant | MeI | 1.79 ml | CI | CH3I
reactant | Water | O | H2O
solvent | DMF | 41 ml | CN(C)C=O | C3H7NO
product | tert-butyl [(2R)-2-methoxypropyl]methylcarbamate | 1.94 g | CO[C@@H](CN(C(OC(C)(C)C)=O)C)C | C10H21NO3
